US05808062
4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]benzoic acid ethyl ester:
The title compound was prepared by Method A using ethyl 4-acetylbenzoate (2.93 g, 15.1 mmol), trimethylsilyl triflate (3.5 mL, 18.1 mmol), triethylamine (4.26 mL, 30.6 mmol), methylene chloride (30 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (3.11 g, 10.0 mmol) m.p. 201°-203° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 1.35 (t, 3H), 3.42 (m, 1H), 4.35 (q, 2H), 6.94 (m, 1H), 7.00 (s, 1H), 7.10 (m, 2H), 7.28 (m, 1H), 7.99 (m, 2H), 8.11 (m, 2H).

reactant | ethyl 4-acetylbenzoate | 15.1 mmol, 2.93 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | trimethylsilyl triflate | 18.1 mmol, 3.5 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 30.6 mmol, 4.26 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 10.0 mmol, 3.11 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C=1OC(C(=C(C1)O)SC1=C(C=CC=C1)C(C)C)=O)=O | C23H22O5S
